US06207686B1
To a solution of (2RS,3RS)-2-(3,4-methylenedioxyphenyl)-3-cyclohexyl-3-hydroxypropionic acid (100 mg), HCl.H-L-Trp-OMe (136 mg) and HOBT (55 mg) in dimethylformamide (6 ml) was added WSCD (64 mg) under ice-bath cooling. After being stirred overnight at room temperature, the mixture was poured into water (20 ml) and extracted with ethyl acetate (20 ml). The organic layer was washed with 5% hydrochloric acid solution, 1M aqueous sodium bicarbonate solution and brine, dried over magnesium sulfate, and concentrated in vacuo to afford N-[(2RS,3RS)-2-(3,4-methylenedioxyphenyl)-3-cyclohexyl-3-hydroxypropionyl]-L-tryptophane methyl ester (165 mg).

reactant | (2RS,3RS)-2-(3,4-methylenedioxyphenyl)-3-cyclohexyl-3-hydroxypropionic acid | 100 mg | C1OC=2C=C(C=CC2O1)C(C(=O)O)C(O)C1CCCCC1 | C16H20O5
reactant | HCl | Cl | ClH
reactant | H-L-Trp-OMe | 136 mg | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)OC | C12H14N2O2
reactant | HOBT | 55 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | N-[(2RS,3RS)-2-(3,4-methylenedioxyphenyl)-3-cyclohexyl-3-hydroxypropionyl]-L-tryptophane methyl ester | 165 mg | COC([C@@H](NC(C(C(O)C1CCCCC1)C1=CC2=C(C=C1)OCO2)=O)CC2=CNC1=CC=CC=C21)=O | C28H32N2O6
